US07381833B2
Production of tert-butyl 2-fluoro-cyclopropane-1-carboxylate (3a)
Sodium borohydride (243 mg, 6.43 mmol) was added to and dissolved in N,N-dimethylacetamide (1.5 mL) at room temperature, followed by addition of an N,N-dimethylacetamide solution (1.0 mL) of tert-butyl 2-chloro-2-fluoro-cyclopropane-1-carboxylate (cis/trans=57/43) (hereinafter the compound will be referred to as “compound (1d)”) (500 mg, 2.57 mmol). Cobalt chloride (33.4 mg, 1.54 mmol) was added to the resultant solution. After completion of addition, the resultant mixture was stirred at 50° C. for 14 hours. After completion of reaction, the whole reaction mixture was diluted with an HPLC mobile phase to 50 mL, to thereby yield a solution containing 344.6 mg (yield: 84%) of the title compound. Yield was determined by means of high performance liquid chromatography (HPLC) (the same shall apply hereinafter).

reactant | Sodium borohydride | 6.43 mmol, 243 mg | [BH4-].[Na+]
reactant | tert-butyl 2-chloro-2-fluoro-cyclopropane-1-carboxylate | ClC1(C(C1)C(=O)OC(C)(C)C)F | C8H12ClFO2
solvent | N,N-dimethylacetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
catalyst | Cobalt chloride | 1.54 mmol, 33.4 mg | [Co](Cl)Cl
solvent | N,N-dimethylacetamide | 1.0 mL | CN(C(C)=O)C | C4H9NO
product | tert-butyl 2-fluoro-cyclopropane-1-carboxylate | 344.6 mg, yield: 84% | FC1C(C1)C(=O)OC(C)(C)C | C8H13FO2
